US05849888
28.3 Grams of propylamine is mixed with 50 g of 2,2'-azobis (2-methyl propionate), and 10 g of 28% sodium methoxide solution in methanol and 10 ml of methanol are added thereto with stirring, followed by conducting a reaction at room temperature with stirring for 6 hours and keeping standing overnight. 100 Milliliter of water is added to the reaction solution and cooled to 5° C. to precipitate crystals. The crystals are recovered by filtration and dried to give 54.0 g (yield: 87%) of 2,2'-azobis(N-propyl-2-methyl propionamide) as pale yellow crystal. The solubility is shown in Table 1.

reactant | propylamine | C(CC)N | C3H9N
reactant | 2,2'-azobis (2-methyl propionate) | 50 g | N(=NC(C(=O)[O-])(C)C)C(C(=O)[O-])(C)C
reactant | sodium methoxide | 10 g | C[O-].[Na+]
reactant | water | O | H2O
solvent | methanol | CO | CH4O
solvent | methanol | 10 ml | CO | CH4O
product | 2,2'-azobis(N-propyl-2-methyl propionamide) | 54.0 g, yield: 87% | N(=NC(C(=O)NCCC)(C)C)C(C(=O)NCCC)(C)C | C14H28N4O2
